US05359098
6-[7-(4-Hydroxypiperidinyl)heptoxy]-2-phenyl-4H-1-benzopyran-4-one
The compound was prepared by a method similar to Example 2 from 6-hydroxyflavone, 1-bromo-7-chloroheptane and 4- hydroxypiperidine: mp 135°-136° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-7-chloroheptane | BrCCCCCCCCl | C7H14BrCl
reactant | 4- hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 6-[7-(4-Hydroxypiperidinyl)heptoxy]-2-phenyl-4H-1-benzopyran-4-one | OC1CCN(CC1)CCCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | C27H33NO4
